US05696054
Preparation of 6-Acetyloxyiminomethyl-3-[1-methyl-1-(3,5-dichlorophenyl)ethyl]-5-phenyl-2, 3- dihydro-4H-1,3-oxazin-4-one (Compound No. 147)
A mixture of 6-hydroxyiminomethyl-3-[1-methyl-1-(3,5-dichlorophenyl)ethyl]-5-phenyl-2,3-dihydro-4H-1,3-oxazin-4-one (Compound No. 135, 0.60 g) and anhydrous acetic acid (2 ml) was stirred at room temperature for 4 hours. The reaction mixture was poured into water, and extracted with ethyl acetate. The organic layer was rinsed with saturated saline solution, and dried with magnesium sulfate. The solvent was removed by evaporation, and the crude product was purified by silica gel chromatography to afford the captioned compound (0.54 g, yield 94%).

reactant | 6-hydroxyiminomethyl-3-[1-methyl-1-(3,5-dichlorophenyl)ethyl]-5-phenyl-2,3-dihydro-4H-1,3-oxazin-4-one | ON=CC1=C(C(N(CO1)C(C)(C1=CC(=CC(=C1)Cl)Cl)C)=O)C1=CC=CC=C1 | C20H18Cl2N2O3
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 6-Acetyloxyiminomethyl-3-[1-methyl-1-(3,5-dichlorophenyl)ethyl]-5-phenyl-2, 3- dihydro-4H-1,3-oxazin-4-one | 0.54 g, yield 94% | C(C)(=O)ON=CC1=C(C(N(CO1)C(C)(C1=CC(=CC(=C1)Cl)Cl)C)=O)C1=CC=CC=C1 | C22H20Cl2N2O4
